US06949563B2
A solution of quinoline-4-carboxaldehyde 1-oxide (0.12 g, 0.69 mmol), 3-amino-N-[4-(trifluoromethoxy)phenyl]thiophene-2-carboxamide (0.21 g, 0.69 mmol), dichloromethane (2 ml) and trifluoroacetic acid (2 ml) was heated at 50° C. for 2 hr, then cooled to room temperature, treated with triethylsilane (0.22 ml, 1.38 mmol) and stirred at 50° C. for another 2 h. After this time the mixture was diluted with water (40 ml), basified (pH 9) with 2M NaOH (aq) and extracted with ethyl acetate (3×20 ml). The extracts were washed with water (30 ml) and brine (30 ml), then dried (MgSO4) and concentrated in vacuo to give crude product. This material was chromatographed over silica gel eluting with 15% acetonitrile/CH2Cl2, and the isolated product further purified by crystallization from acetonitrile to give 3-{[(1-oxidoquinolin-4-yl)methyl]amino}-N-[4-(trifluoromethoxy)phenyl]thiophene-2-carboxamide. MS (ES+): 460 [MH+]. 1H NMR (DMSO-d6, 400 MHz): δ 5.00 (s, 2H), 6.87 (d, J=5.6 Hz, 1H), 7.25-7.40 (m, 3H), 7.65 (d, J=5.3 Hz, 1H), 7.73-7.91 (m, 4H), 8.0 (t, J=6.4 Hz, 1H), 8.30 (d, J=7.1 Hz, 1H), 8.56 (d, J=6.3 Hz, 1H), 8.61 (d, J=8.3 Hz, 1H), 9.60 (s, 1H).

reactant | quinoline-4-carboxaldehyde 1-oxide | 0.69 mmol, 0.12 g | [N+]1(=CC=C(C2=CC=CC=C12)C=O)[O-] | C10H7NO2
reactant | 3-amino-N-[4-(trifluoromethoxy)phenyl]thiophene-2-carboxamide | 0.69 mmol, 0.21 g | NC1=C(SC=C1)C(=O)NC1=CC=C(C=C1)OC(F)(F)F | C12H9F3N2O2S
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 1.38 mmol, 0.22 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | NaOH | 2M | [OH-].[Na+]
solvent | water | 40 ml | O | H2O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 3-{[(1-oxidoquinolin-4-yl)methyl]amino}-N-[4-(trifluoromethoxy)phenyl]thiophene-2-carboxamide | [O-][N+]1=CC=C(C2=CC=CC=C12)CNC1=C(SC=C1)C(=O)NC1=CC=C(C=C1)OC(F)(F)F | C22H16F3N3O3S
